US06545161B2
Preparation of 3-(4-chloro-5-ethoxycarbonylamino-2-fluorophenyl)-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (XLVII).
Ethyl chloroformate (2.58 g) was dropwise added into a solution of 3-(5-amino-4-chloro-2-fluorophenyl)-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (XLVI) in pyridine (25 ml) at 0° C., and stirred at room temperature for one hr. The reaction mixture was diluted with ethyl acetate, washed with 1N hydrochloric acid followed by water, and dried over sodium sulfate. After concentration, the crystals (5.46 g) were collected by filtration. 1H NMR (CDCl3, 300 MHz) 1.31 (3H, t, J=7.1 Hz), 4.22 (2H, q, J=7.1 Hz), 6.20 (1H, s), 7.14 (1H, br), 7.29 (1H, d, J=8.8 Hz), 7.36 (1H, d, J=6.0 Hz), 8.26 (1H, bd, J=6.4 Hz) ppm.

reactant | Ethyl chloroformate | 2.58 g | ClC(=O)OCC | C3H5ClO2
reactant | 3-(5-amino-4-chloro-2-fluorophenyl)-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | NC=1C(=CC(=C(C1)N1C(NC(=CC1=O)C(F)(F)F)=O)F)Cl | C11H6ClF4N3O2
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-chloro-5-ethoxycarbonylamino-2-fluorophenyl)-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | ClC1=CC(=C(C=C1NC(=O)OCC)N1C(NC(=CC1=O)C(F)(F)F)=O)F | C14H10ClF4N3O4
